US07173028B2
2.4-dichloro-5-trimethylsilanylethynyl-pyrimidine
66.55 g of 2,4-dichloro-5-iodo-pyrimidine is stirred for three hous in 1.2 litres of absolute THF with 70 ml of triethylamine, 4.9 g of palladium chloride, 13.3 g of triphenylphosphine, 4 g of copper iodide and 39.3 ml of trimethylsilylacetylene at 40° C. After the reaction has ended the solvent is eliminated in vacuo and the dark red oil remaining is subjected to fractional distillation. The product is distilled over at 0.01 Torr and 100° C.

reactant | 2,4-dichloro-5-iodo-pyrimidine | 66.55 g | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | triethylamine | 70 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 13.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilylacetylene | 39.3 ml | C[Si](C)(C)C#C | C5H10Si
solvent | THF | 1.2 litres | C1CCOC1 | C4H8O
catalyst | palladium chloride | 4.9 g | [Pd](Cl)Cl
catalyst | copper iodide | 4 g | [Cu](I)I
product | 2.4-dichloro-5-trimethylsilanylethynyl-pyrimidine | ClC1=NC=C(C(=N1)Cl)C#C[Si](C)(C)C | C9H10Cl2N2Si
